US06358980B1
Ethyl{[3-(2-butynyloxy)phenyl]sulfanyl}acetate was prepared according to the general method as outlined in example 1 (step 2), starting from ethyl [(3-hydroxyphenyl)sulfanyl]acetate (3.87 g, 18.3 mmol) and 4-bromo-2-butyne (2.66 g, 20 mmol); 5.16 g yellow oil. Yield 100%; MS(EI): 264.1 (M+H)+

reactant | ethyl [(3-hydroxyphenyl)sulfanyl]acetate | 18.3 mmol, 3.87 g | OC=1C=C(C=CC1)SCC(=O)OCC | C10H12O3S
reactant | 4-bromo-2-butyne | 20 mmol, 2.66 g | BrCC#CC | C4H5Br
product | Ethyl{[3-(2-butynyloxy)phenyl]sulfanyl}acetate | Yield 100% | C(C)OC(CSC1=CC(=CC=C1)OCC#CC)=O | C14H16O3S
